US09029560B2
Preparation of (R)-1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-2-amine (CB61)
(R)-1-(4-(1-(4-(Trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-2-amine(2S,3S)-2,3-dihydroxysuccinate (CB59) (0.35 g, 0.68 mmol) was slurried in methanol (20 mL) and SCX silica gel (2 g). The solution was stirred for 3 hours, filtered, and washed with methanol (20 mL). The compound was eluted from the SCX silica gel using ammonium hydroxide (5% in MeOH, 25 mL). The filtrate was concentrated providing the title compound as a white solid (0.22 g, 87%): mp 84-88° C.; 1H NMR (400 MHz, CDCl3) d 8.56 (s, 1H), 8.13 (d, J=8.2 Hz, 2H), 7.80 (d, J=9.0 Hz, 2H), 7.44 7.35 (m, 2H), 7.31 (d, J=8.1 Hz, 2H), 3.29 3.15 (m, 1H), 2.78 (dd, J=13.2, 5.4 Hz, 1H), 2.60 (dd, J=13.2, 8.0 Hz, 1H), 1.49 (s, 2H), 1.15 (d, J=6.3 Hz, 3H).

reactant | (R)-1-(4-(1-(4-(Trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-2-amine(2S,3S)-2,3-dihydroxysuccinate | 0.68 mmol, 0.35 g | O[C@H](C(=O)O)[C@@H](C(=O)O)O.FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)C[C@@H](C)N)(F)F
solvent | methanol | 20 mL | CO | CH4O
product | (R)-1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-2-amine | 0.22 g, 87% | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)C[C@@H](C)N)(F)F | C18H17F3N4O
